US05840892
Preparation of methyl 2-(4,6-dimethoxy-2-pyrimidinyloxy)-3-methylbenzoate
4.38 g (25 mmol) of 2-chloro-4,6-dimethoxypyrimidine, 4.17 g (25.0 mmol) of methyl 2-hydroxy-3-methylbenzoate and 0.66 g (6.3 mmol) of sodium methanesulfinate were heated in the presence of 5.17 g (37.5 mmol) of potassium carbonate in 25 ml of N,N-dimethylformamide to 120° C. with stirring. After 8 hours, the solvent was removed in a rotary evaporator at 60° C./20 mbar. The residue was taken up in 30 ml of water and 30 ml of dichloromethane. After the organic phase had been separated off, the aqueous phase was again extracted with 20 ml of dichloromethane. The combined organic phases was washed with water, dried over magnesium sulfate and evaporated. The residue was purified by chromatography on a silica gel column (eluent hexane/ethyl acetate 4:1). The title product was obtained from the product fraction in a yield of 5.23 g (65.8 percent of theory) (GC content 96 percent). The melting point of the compound was 73.8° to 79.1° C. Other data concerning the title compound was:

reactant | 2-chloro-4,6-dimethoxypyrimidine | 25 mmol, 4.38 g | ClC1=NC(=CC(=N1)OC)OC | C6H7ClN2O2
reactant | methyl 2-hydroxy-3-methylbenzoate | 25.0 mmol, 4.17 g | OC1=C(C(=O)OC)C=CC=C1C | C9H10O3
reactant | sodium methanesulfinate | 6.3 mmol, 0.66 g | CS(=O)[O-].[Na+]
reactant | potassium carbonate | 37.5 mmol, 5.17 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | methyl 2-(4,6-dimethoxy-2-pyrimidinyloxy)-3-methylbenzoate | COC1=NC(=NC(=C1)OC)OC1=C(C(=O)OC)C=CC=C1C | C15H16N2O5
